US04061761
b. 3'-Sulfamoyl-diazoacetophenone
11 g of 3-sulfamoylbenzoyl chloride were reacted as prescribed in Example 66b) with diazomethane in diethyl ether and the crystals were filtered off. Melting point: 142° C.

reactant | 3-sulfamoylbenzoyl chloride | 11 g | S(N)(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H6ClNO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3'-Sulfamoyl-diazoacetophenone | S(N)(=O)(=O)C=1C=C(C=CC1)C(C=[N+]=[N-])=O | C8H7N3O3S
